US06353017B1
B. N-[3-methyl-N-(2,2-diphenylacetyl)-L-phenylalanyl]-L-cysteinamide
To a solution of N-[3-methyl-N-(2,2-diphenylacetyl)-L-phenylalanyl]-S-trityl-L-cysteinamide (0.68 g, 0.95 mmol) in CH2Cl2 (20 mL) is added triethylsilane (0.30 mL, 1.9 mmol), in one portion, followed by dropwise addition of trifluoroacetic acid (10 mL). The yellow solution is stirred at room temperature for 1 hour, after which time solvent is evaporated, and the residue is suspended in water (30 mL), filtered, and the collected solid is washed with water and ether (100 mL each), and dried in vacuo, to yield of N-[3-methyl-N-(2,2-diphenylacetyl)-L-phenylalanyl]-L-cysteinamide, as a white solid.

reactant | N-[3-methyl-N-(2,2-diphenylacetyl)-L-phenylalanyl]-S-trityl-L-cysteinamide | 0.95 mmol, 0.68 g | CC=1C=C(C[C@H](NC(C(C2=CC=CC=C2)C2=CC=CC=C2)=O)C(=O)NC([C@@H](N)CSC(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)=O)C=CC1 | C46H43N3O3S
reactant | triethylsilane | 1.9 mmol, 0.30 mL | C(C)[SiH](CC)CC | C6H16Si
reactant | trifluoroacetic acid | 10 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
product | N-[3-methyl-N-(2,2-diphenylacetyl)-L-phenylalanyl]-L-cysteinamide | CC=1C=C(C[C@H](NC(C(C2=CC=CC=C2)C2=CC=CC=C2)=O)C(=O)NC([C@@H](N)CS)=O)C=CC1 | C27H29N3O3S
